US08048680B2
2-Acrylamido-phenylboronic acid (“2-APB”) was synthesized by reacting 2-aminophenylboronic acid with an excess of acryloyl chloride in an aqueous alkaline solution. The product was extracted in acetone and dried using a rotary evaporator. The structure of 2-APB was confirmed using NMR. The purity was shown to be greater than 90%.

reactant | 2-aminophenylboronic acid | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 2-Acrylamido-phenylboronic acid | C(C=C)(=O)NC1=C(C=CC=C1)B(O)O | C9H10BNO3
